US07084154B2
A suspension of 4-phenyl-but-3-enoic acid amide (5.0 g, 31 mmol) in 250 mL dichloromethane was cooled to 0° C. Diisobutylaluminum hydride (1 M in dichloromethane, 250 mL) was added and the resulting homogeneous mixture was allowed to slowly warm to rt. The reaction was stirred for 4 days then quenched by carefully pouring the mixture onto 200 mL of 1:1 water/methanol at 0° C. The aluminum salts were removed by filtration and washed with methanol. The combined filtrate was collected and the volatile material was removed by a rotary evaporator to give of 4-phenyl-but-3-enylamine (3.62 g, 79%) as a pale yellow oil.

reactant | 4-phenyl-but-3-enoic acid amide | 31 mmol, 5.0 g | C1(=CC=CC=C1)C=CCC(=O)N | C10H11NO
reactant | Diisobutylaluminum hydride | 1 M, 250 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 4-phenyl-but-3-enylamine | 3.62 g, 79% | C1(=CC=CC=C1)C=CCCN | C10H13N
